US07199142B2
Step B: 3-Fluoro-4-(2-(S)-butoxy)benzoic acid
A solution of 130 mg (0.66 mmol) of 3-fluoro-4-(2-(S)-butoxy)benzaldehyde in 1 mL of acetone was treated with a 73 mg (0.73 mmol) of chromium (VI) oxide in a 3:1 v/v mixture of water/sulfuric acid at 0° C. The reaction was allowed to warm to rt and was stirred for 2 hr then extracted with 10 mL of EtOAc, washed with brine, dried over MgSO4 and concentrated to afford 130 mg of the title compound: 1H NMR (500 Mhz) δ 1.00 (t, J=7.6, 3H), 1.36 (d, J=6.2, 3H), 1.70 (m, 1H), 1.82 (m, 1H), 4.44 (m, 1H), 6.99 (t, J=8.2, 1H), 7.79 (d, J=8.2, 1H), 7.85 (s, 1H).

reactant | 3-fluoro-4-(2-(S)-butoxy)benzaldehyde | 0.66 mmol, 130 mg | FC=1C=C(C=O)C=CC1O[C@@H](C)CC | C11H13FO2
reactant | water sulfuric acid | O.S(O)(O)(=O)=O
solvent | acetone | 1 mL | CC(=O)C | C3H6O
catalyst | chromium (VI) oxide | 0.73 mmol, 73 mg | [O-2].[Cr+6].[O-2].[O-2]
product | 3-Fluoro-4-(2-(S)-butoxy)benzoic acid | 130 mg | FC=1C=C(C(=O)O)C=CC1O[C@@H](C)CC | C11H13FO3
